US04987145
A mixture of 2-chloro-6-[4-(4-trifluoromethylsulfonyloxyphenoxy)benzylamino]aniline (300 mg) and acetic acid (5 ml) was heated under reflux for 6 hours. The reaction mixture was cooled to room temperature, excessive acetic acid was removed by distillation under reduced pressure, and toluene (100 ml) and a 5% sodium hydroxide solution (50 ml) were added thereto, followed by stirring for 10 minutes. The toluene layer was separated, washed with water, dried over anhydrous sodium sulfate and distilled under reduced pressure to eliminate toluene The residue was purified by silica gel column chromatography to give 4-chloro-2-methyl-1-[4-(4-trifluoromethylsulfonyloxyphenoxy)benzyl]benzimidazole (285 mg) as a colorless liquid. nD24 1.5655.

reactant | 2-chloro-6-[4-(4-trifluoromethylsulfonyloxyphenoxy)benzylamino]aniline | 300 mg | ClC1=C(N)C(=CC=C1)NCC1=CC=C(C=C1)OC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C20H16ClF3N2O4S
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2-methyl-1-[4-(4-trifluoromethylsulfonyloxyphenoxy)benzyl]benzimidazole | 285 mg | ClC1=CC=CC=2N(C(=NC21)C)CC2=CC=C(C=C2)OC2=CC=C(C=C2)OS(=O)(=O)C(F)(F)F | C22H16ClF3N2O4S
